US05356932
A mixture consisting of 1,3-diphthalimido-2-ethylpropane (25 g, 69 mmol) concentrated hydrochloric acid (700 mL), and ethanol (700 mL) was refluxed for 6 days with additional concentrated hydrochloric acid being added at the indicated time; 3 days (300 mL), 4 days (200 mL), 5 days (200 mL). The reaction was evaporated to dryness and the residue was diluted with water (200 mL), chilled, and filtered. The filtrate was washed with ethyl acetate (5×500 mL) and evaporated to leave 12 g (100%) of 2-ethyl-1,3-propanediamine dihydrochloride as a thick oil.

reactant | 1,3-diphthalimido-2-ethylpropane | 69 mmol, 700 mL, 25 g | C1(C=2C(C(N1CC(CN1C(C=3C(C1=O)=CC=CC3)=O)CC)=O)=CC=CC2)=O | C21H18N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | 2-ethyl-1,3-propanediamine dihydrochloride | 12 g, 100% | Cl.Cl.C(C)C(CN)CN | InChI=1S/C5H14N2.2ClH/c1-2-5(3-6)4-7;;/h5H,2-4,6-7H2,1H3;2*1H
